US07227035B2
Synthesis of 4′-Methoxy-biphenyl-4-sulfonic Acid (2-benzoyl-4-chloro-phenyl)-amide
To a magnetically stirred mixture of N-(2-Benzoyl-4-chloro-phenyl)-4-iodo-benzenesulfonamide (497 mg, 1.0 mmol), [1,1′ Bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (30 mg, 0.037 mmol) and dry cesium carbonate (511 mg, 1.57 mmol) in NMP (3 mL), was added DME (3 mL) and dry triethylamine (3 mL) under dry nitrogen. To this stirred mixture was added (4-methoxyphenyl)boronic acid (202 mg) and the mixture was stirred at 55° C. overnight. The reaction was worked up by addition to crushed ice and extracted with ethyl acetate (3×75 mL), and the organic layer was dried (MgSO4), filtered and concentrated. The crude product was chromatographed on silica gel using 10–30% EtOAc/Hexane. 1H NMR (CDCl3) δ 9.64 (br s, 1H, NH), 7.75 (dm, 1H), 7.75 (dm, 2H, J=8.8 Hz), 7.48 (m, 3H), 7.56 (dm, 2H, J=8.4 Hz), 7.51 (m), 7.32 (d 1H, J=2.2 Hz), 7.26 (d, 1H, J=7 Hz), 7.09 (d, 2H, J=8.4 Hz), 3.65 (s, 3H). MS: m/z 478.0 (M+1).

reactant | N-(2-Benzoyl-4-chloro-phenyl)-4-iodo-benzenesulfonamide | 1.0 mmol, 497 mg | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)I | C19H13ClINO3S
reactant | dichloromethane | 0.037 mmol, 30 mg | ClCCl | CH2Cl2
reactant | cesium carbonate | 1.57 mmol, 511 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (4-methoxyphenyl)boronic acid | 202 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 4′-Methoxy-biphenyl-4-sulfonic Acid (2-benzoyl-4-chloro-phenyl)-amide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C26H20ClNO4S
